US04497819
A solution of 14 g (0.041 mole) of 1-bromo-3-(7-chlorodibenzofuran-3-yloxy)-propane and 7.9 g (0.05 mole) of N-benzylimidazole in 25 ml of dry dioxane and 25 ml of dry acetonitrile was stirred for 40 hours at 70° C. The mixture was cooled to 15° C. in an ice bath, and the crystalline precipitate formed was then filtered off under suction, washed with 30 ml of ether and finally with 50 ml of n-pentane, and dried. 15 g (73.2% of theory) of N1 -benzyl-N3 -[3-(7-chlorodibenzofuran-3-yloxy)-propyl]-imidazolium bromide of melting point 162°-166° C. were obtained.

reactant | 1-bromo-3-(7-chlorodibenzofuran-3-yloxy)-propane | 0.041 mole, 14 g | BrCCCOC=1C=CC2=C(OC3=C2C=CC(=C3)Cl)C1 | C15H12BrClO2
reactant | N-benzylimidazole | 0.05 mole, 7.9 g | C(C1=CC=CC=C1)N1C=NC=C1 | C10H10N2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N1 -benzyl-N3 -[3-(7-chlorodibenzofuran-3-yloxy)-propyl]-imidazolium bromide | 15 g, 73.2% | [Br-].C(C1=CC=CC=C1)[N+]1=CN(C=C1)CCCOC=1C=CC2=C(OC3=C2C=CC(=C3)Cl)C1 | InChI=1S/C25H22ClN2O2.BrH/c26-20-7-9-22-23-10-8-21(16-25(23)30-24(22)15-20)29-14-4-11-27-12-13-28(18-27)17-19-5-2-1-3-6-19;/h1-3,5-10,12-13,15-16,18H,4,11,14,17H2;1H/q+1;/p-1
